US06117873
a) 2,3-Diamino-5-fluorotoluene
25 g (0.147 mol) of 4-fluoro-2-methyl-6-nitroaniline in 250 ml of tetrahydrofuran are hydrogenated at about 34° C. for 2 hours in the presence of 8 g of Raney nickel. The reaction mixture is then filtered off and concentrated. The title compound is obtained as a brown oil.

reactant | 4-fluoro-2-methyl-6-nitroaniline | 0.147 mol, 25 g | FC1=CC(=C(N)C(=C1)[N+](=O)[O-])C | C7H7FN2O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 8 g | [Ni] | Ni
product | 2,3-Diamino-5-fluorotoluene | NC1=C(C=C(C=C1N)F)C | C7H9FN2
